datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20](C1=CC=CC=C1)C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:61][CH:62]=[CH:63][C:73]3=[C:72]2C=CC=C3)[O-:12])C=C1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([CH:10]([C:11](C5=CC=CC=C5)=[O:12])[N+:61]5=[CH:61][CH:62]=[CH:63][C:73]6=[C:72]5C=CC=C6)C1C2C43 10,11=10,20;12=11,12;20,21=21"
CC[O:82][C:71]([C-:10](Cl)[C:61](=[O:62])[O:92]CC)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10](Cl)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20
"CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10][C@@H]1C1=CC=CC=C1.CN(C)C1=CC=C(C2C3[CH:20](C4=CC=C(N(C)C)C=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]([CH:20](C2=CC=C(N(C)C)C=C2)C2C(C3=CC=C(N(C)C)C=C3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C@@H]1C1=CC=CC=C1 10=20;20,21=21"
"C1C[CH:10]=[C:11]([N:12]2CCOCC2)C1.C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2>>C1C[CH:10]([CH:20]2[C:21](C[N+]34CCN(CC3)CC4)=[C:22]([O-:23])O[C:32]3=[C:31]2[CH:36]=[CH:35][CH:34]=[CH:33]3)[C:11](=[N+:12]2CCOCC2)C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.COC1=C([C:10]#[C:11][N:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])C=CC=C1>>COC1=C([C:10](=[C:11]=[N+:12](CC2=CC=CC=C2)[S:63](C2=CC=C(C)C=C2)(=[O:64])=[O:74])[CH:20](C2=CC=CC=C2)[CH-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])C=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC(C)(C)C[O:62]2)S1>>CC1(C)C[O+:12]=[B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)[O:62]C1.CC1=CC=[C:10]([CH:20](C2=CC=CC=C2)[CH:21]=[C:22]=[N-:23])S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11](=[N:10][C:61](C)=[O:62])[O-:12].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[C:11]([N:10]([CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(C)(C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2C(C)(C)N(C)[C:62](=[O:63])[C@@H:61]2CC2=CC=CC=C2)[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.[NH2:10][NH:61][CH:62]=[O:63]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][NH:61][CH:62]=[O:63])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C1CC[N:72]([C:61]([S-:10])=[S:62])C1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>Cl[C:20]1([S:10][C:61](=[S:62])[N:72]2CCCC2)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10=20;20,21=21,22;22,23=23"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.[NH2:10][NH:61][CH:62]=[O:63]>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([NH2+:10][NH:61][CH:62]=[O:63])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[NH2:10][NH2:61]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH2+:10][NH2:61])([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[CH:64]=[CH:63]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[CH:64]=[CH:63]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
